US06462036B1
A mixture of 4-hydroxy-3-(hydroxymethyl)benzaldehyde (1.08 g), indan-1-one (0.94 g), ethanol (30 ml) and 5M aqueous sodium hydroxide solution (1.6 ml) was boiled under reflux for 6.5 hours. The mixture was cooled to ambient temperature and allowed to stand at that temperature for 16 hours. The mixture was diluted with water (45 ml) and then with 5M hydrochloric acid (1.6 ml) which was added with cooling. The precipitate formed was collected by filtration, washed with water and dried to give 2-(4-hydroxy-3-(hydroxymethyl)benzylidene)-1-indan-one, m.p. 194-195° C.

reactant | 4-hydroxy-3-(hydroxymethyl)benzaldehyde | 1.08 g | OC1=C(C=C(C=O)C=C1)CO | C8H8O3
reactant | indan-1-one | 0.94 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | sodium hydroxide | 5M, 1.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | 5M, 1.6 ml | Cl | ClH
solvent | water | 45 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(4-hydroxy-3-(hydroxymethyl)benzylidene)-1-indan-one | OC1=C(C=C(C=C2C(C3=CC=CC=C3C2)=O)C=C1)CO | C17H14O3
